US05798354
(b) Synthesis of 2,4-dihexyloxy-5-(1-adamantyl)benzaldehyde
1.3 g (35.2 mmol) of sodium hydride (80% in oil) and 50 ml of DMF were introduced into a three-necked flask under a stream of nitrogen. A solution of 4.8 g (17.6 mmol) of 2,4-dihydroxy-5-(1-adamantyl)-benzaldehyde dissolved in 70 ml of DMF was added dropwise and stirring was carried out at room temperature until gas evolution has ceased. 6.5 ml (35.2 mmol) of 1-iodohexane were then added dropwise and stirring was carried out at room temperature for four hours.

reactant | sodium hydride | 35.2 mmol, 1.3 g | [H-].[Na+]
reactant | 2,4-dihydroxy-5-(1-adamantyl)-benzaldehyde | 17.6 mmol, 4.8 g | OC1=C(C=O)C=C(C(=C1)O)C12CC3CC(CC(C1)C3)C2 | C17H20O3
reactant | 1-iodohexane | 35.2 mmol, 6.5 ml | ICCCCCC | C6H13I
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2,4-dihexyloxy-5-(1-adamantyl)benzaldehyde | C(CCCCC)OC1=C(C=O)C=C(C(=C1)OCCCCCC)C12CC3CC(CC(C1)C3)C2 | C29H44O3
